US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide
Potassium carbonate (143 mg, 1.04 mmol) was added to a mixture of 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide (160 mg, 0.52 mmol) and 1-(3,4-difluorobenzoyl)azetidine (102 mg, 0.52 mmol) in acetonitrile (5.0 mL), and the stirred mixture heated at 160° C. in a ‘Smith Creator Microwave’ for 15 hours. The mixture was allowed to reach ambient temperature and pressure and reduced in vacuo. The residual oil was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate layer was separated, washed with brine, dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-10% methanol in ethyl acetate, to give the desired compound (30 mg)

reactant | Potassium carbonate | 1.04 mmol, 143 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide | 0.52 mmol, 160 mg | OC=1C=C(C(=O)NC=2SC(=CN2)C)C=C(C1)O[C@H](CO)C | C14H16N2O4S
reactant | 1-(3,4-difluorobenzoyl)azetidine | 0.52 mmol, 102 mg | FC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9F2NO
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(5-methyl-1,3-thiazol-2-yl)benzamide | 30 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC=3SC(=CN3)C)C=C(C2)O[C@H](CO)C)C=C1)F | C24H24FN3O5S
